US06335364B1
3-Triethylsilyloxy-5benzyloxy-valeraldehyde (16).
To a solution of 10.0 g (31.2 mmol) of 4-Triethylsilyloxy-6-benzyloxy-1-hexene in 310 mL of tetrahydrofuran at 0° C. were added 4.38 g (37.4 mmol) of 4-methylmorpholine N-oxide, 6.24 mL (1.248 mmol) of osmium tetroxide (0.2M in benzene) and 45 mL of water and stirred overnight at room temperature. To the mixture at 0° C. were added 185 mL of water and 20.02 g (93.6 mmol) of sodium periodate and stirred at room temperature for 1 hour, followed by partitioned between ethyl acetate and water. The organic layer was washed with water and brine, dried over anhydrous sodium sulfate and concentrated for the next reaction. 1H NMR (CDCl3): δ 9.79 (t, J=2.4 Hz, 1H, CH═O), 7.35-7.31 (m, 5H, ArH), 4.51 (d, J=12.0 Hz, 1H, ArCH2O), 4.46 (d, J=12.0 Hz, 1H, ArCH2O), 4.40 (p, J=6.0 Hz, 1H, CH—O), 3.55 (m, 2H, CH2—O), 2.56 (m, 2H, CH2C═O), 1.85 (m, 2H, CH2), 0.94 (t, J=8.1 Hz, 9H, TES CH3), 0.59 (q,J=8.1 Hz, 6H, TES CH2). 13CNMR (CDCl3): δ 201.94, 138.14, 128.31, 127.60, 127.55, 72.99, 66.31, 65.49, 51.14, 37.71, 6.84, 4.88.

reactant | 4-Triethylsilyloxy-6-benzyloxy-1-hexene | 31.2 mmol, 10.0 g | C(C)[Si](OC(CC=C)CCOCC1=CC=CC=C1)(CC)CC | C19H32O2Si
reactant | 4-methylmorpholine N-oxide | 37.4 mmol, 4.38 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | water | 45 mL | O | H2O
reactant | water | 185 mL | O | H2O
reactant | sodium periodate | 93.6 mmol, 20.02 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | tetrahydrofuran | 310 mL | O1CCCC1 | C4H8O
catalyst | osmium tetroxide | 1.248 mmol, 0.2M, 6.24 mL | [Os](=O)(=O)(=O)=O
product | 3-Triethylsilyloxy-5benzyloxy-valeraldehyde | C(C)[Si](OC(CC=O)CCOCC1=CC=CC=C1)(CC)CC | C18H30O3Si
